US08729078B2
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile (52 mg, 0.0839 mmol) was dissolved in 6 mL of dichloromethane and 2 mL of methanol. Sodium borohydride solution (9.52 mg, 0.252 mmol) in water (0.5 mL) and methanol (1.0 mL) was added in drops. The mixture was stirred at room temperature for 1 hr. LC/MS showed a clean desired product. The mixture was evaporated to dryness and extracted with dichloromethane and water. The organic layer was dried over sodium sulfate and evaporated to give a pure desired 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile (51 mg, 98% yield). LC/MS clacd for C34H32FN7O4 (m/e) 621.25, obsd 622.1 (M+H, ES+); 1H NMR (400 MHz, CDCl3) δ ppm 1.45 (s, 9H), 3.59-3.77 (m, 8H), 4.37 (br. s., 2H), 6.59 (br. s., 1H), 7.43 (d, J=8.6 Hz, 2H), 7.48 (dd, J=7.8, 1.3 Hz, 1H), 7.54-7.61 (m, 4H), 7.66 (t, J=8.1 Hz, 1H), 7.81 (dd, J=8.1, 1.3 Hz, 1H), 8.32 (d, J=2.5 Hz, 1H), 8.74 (s, 1H).

reactant | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile | 0.0839 mmol, 52 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=CC=C(C=C1)C(=O)N1CCOCC1)C=O | C34H30FN7O4
reactant | Sodium borohydride | 0.252 mmol, 9.52 mg | [BH4-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
reactant | methanol | 1.0 mL | CO | CH4O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | water | 0.5 mL | O | H2O
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)C(=O)N1CCOCC1)CO | C34H34FN7O5
